US06777409B2
3-Methyl-2-butenoic acid-(4-fluorophenyl)amide
A solution of 10.0 g (0.1 mol) of 3-methyl-2-butenoic acid in 200 ml of THF is mixed with 9.4 ml (0.1 mol) of ethyl chloroformate and 14.1 ml (0.1 mol) of triethylamine at 0° C. After 10 minutes at room temperature, 10.6 ml (0.11 mol) of 4-fluoroaniline is added to it. The batch is stirred for 1 hour at room temperature, diluted with water and extracted with ethyl acetate (1 l). The organic phase is washed with saturated NaCl, dried (Na2SO4) and concentrated by evaporation in a vacuum. The residue is purified by column chromatography on silica gel with hexane-ethyl acetate. Yield 18.8 g.

reactant | 3-methyl-2-butenoic acid | 0.1 mol, 10.0 g | CC(=CC(=O)O)C | C5H8O2
reactant | ethyl chloroformate | 0.1 mol, 9.4 ml | ClC(=O)OCC | C3H5ClO2
reactant | triethylamine | 0.1 mol, 14.1 ml | C(C)N(CC)CC | C6H15N
reactant | 4-fluoroaniline | 0.11 mol, 10.6 ml | FC1=CC=C(N)C=C1 | C6H6FN
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 3-Methyl-2-butenoic acid-(4-fluorophenyl)amide | FC1=CC=C(C=C1)NC(C=C(C)C)=O | C11H12FNO
